US06359145B1
2-Hydroxyoctanoic acid (1.0 g) was stirred in 10% hydrogen chloride methanol solution (20 ml) at room temperature. After 1.5 hours, the reaction mixture was evaporated under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic layer was washed with aqueous NaHCO3 solution and dried over sodium sulfate. Evaporation of the solvent under reduced pressure gave methyl 2-hydroxyoctanoate (0.684 g) as a colorless oil.

reactant | 2-Hydroxyoctanoic acid | 1.0 g | OC(C(=O)O)CCCCCC | C8H16O3
reactant | hydrogen chloride methanol | 20 ml | CO.Cl
product | methyl 2-hydroxyoctanoate | 0.684 g | OC(C(=O)OC)CCCCCC | C9H18O3
